Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.49858514143
[C:1]#[C:2][O:3][C:4][H:5].[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-6.47078041365
[C:1]#[C:2][O:3][C:4]#[C:5]>>[C:1].[C:2][O:3][C:4]#[C:5],4.23583178194
[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:12]([C:9]([O:8])([H:10])[H:11])([H:13])[H:14],2.77600652863
[C:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-4.85480874113
[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[H:8],-3.9377628021
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.22873244068
[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.99668909029
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.84581123224
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.85803059241
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4],0.553111133151
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.94494530927
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],8.06541414936
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],2.13489725857
[C:3]([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.01716650131
[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-2.14140270735
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.3394233712400005
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:12]([H:13])[C:15]([C:10]([H:11])[H:14])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],-0.0598616875004
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9],3.86589608752
[C:1]#[C:2].[C:3]([O:4][O:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8],-5.2680427638
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10]>>[C:1]#[C:2][H:3].[C:4](\[H:5])(=[C:6]\[O:7][H:8])[O:9][H:10],1.9338200636200005
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1][C:2]#[C:4][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],2.32041801634
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:8]([H:9])([H:10])=[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],1.5728040361700002
[C:1]([C:2]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])([H:6])([H:7])[H:8].[C:3]#[C:5]>>[C:1]#[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.16097305893
[C:1]#[C:2][C:10]([H:11])([H:12])[H:13].[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.885868603861
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.0134786519
[H:10].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-3.80882669693
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7],-7.21849029008
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.26241775712
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.62450523851
